US04597902
N-[2-[(4-Ethoxyphenyl)sulfonyl]ethyl]-2-propanamine hydrochloride[1:1]
To a suspension of 6.6 g of a 60% dispersion of sodium hydride in oil (0.165 mole) in 300 mole of dimethyl sulfoxide was added 7.5 g (0.163 mole) of absolute ethanol. The mixture was stirred at room temperature for 0.5 hr, and 20.8 g (0.080 mole) of N-[2-(4-chlorophenylsulfonyl)ethyl]-2-propanamine hydrochloride was added as a solid. The mixture was heated at 120°-140° C. for 1 hr, and the solvent was removed in vacuo. The residue was partitioned between methylene chloride and dilute sodium hydroxide. The methylene chloride solution was dried over magnesium sulfate, and the solvent was removed in vacuo. The residue was dissolved in methanol, an excess of ethereal hydrogen chloride was added, and ether was added. A white solid precipitated in amount of 14.92 g (69.2%), m.p. 168°-170° C.

reactant | sodium hydride | [H-].[Na+]
reactant | dimethyl sulfoxide | 300 mole | CS(=O)C | C2H6OS
reactant | ethanol | 0.163 mole, 7.5 g | C(C)O | C2H6O
reactant | N-[2-(4-chlorophenylsulfonyl)ethyl]-2-propanamine hydrochloride | 0.080 mole, 20.8 g | Cl.ClC1=CC=C(C=C1)S(=O)(=O)CCNC(C)C
product | N-[2-[(4-Ethoxyphenyl)sulfonyl]ethyl]-2-propanamine hydrochloride | Cl.C(C)OC1=CC=C(C=C1)S(=O)(=O)CCNC(C)C | InChI=1S/C13H21NO3S.ClH/c1-4-17-12-5-7-13(8-6-12)18(15,16)10-9-14-11(2)3;/h5-8,11,14H,4,9-10H2,1-3H3;1H
